US07932394B2
In an ice bath, 6.1 ml of triethylamine and 2.3 ml of methanesulfonyl chloride were added to a chloroform (15 ml) solution of 2.59 g of methyl 2-(acetyloxy)-4-hydroxybutanoate, and stirred for 30 minutes. Saturated saline water was added to the reaction liquid, extracted with chloroform, and the organic layer was dried. The solvent was evaporated away under reduced pressure to obtain 2.54 g of methyl 2-(acetyloxy)-4-[(methylsulfonyl)oxy]butanoate as a brown liquid.

reactant | triethylamine | 6.1 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.3 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
reactant | methyl 2-(acetyloxy)-4-hydroxybutanoate | 2.59 g | C(C)(=O)OC(C(=O)OC)CCO | C7H12O5
solvent | water | O | H2O
product | methyl 2-(acetyloxy)-4-[(methylsulfonyl)oxy]butanoate | 2.54 g | C(C)(=O)OC(C(=O)OC)CCOS(=O)(=O)C | C8H14O7S
